US06121308
1-methyl-2-[N-(4-amidino-2-methoxy-phenyl)-aminomethyl]-5-(N-methyl-benzenesulphonylamino)-benzimidazole
Prepared analogously to Example 1e from 1-methyl-2-[N-(4-cyano-2-methoxy-phenyl)-aminomethyl]-5-(N-methyl-benzenesulphonylamino)-benzimidazole and ethanolic hydrochloric acid, ethanol and ammonium carbonate.

reactant | 1-methyl-2-[N-(4-cyano-2-methoxy-phenyl)-aminomethyl]-5-(N-methyl-benzenesulphonylamino)-benzimidazole | CN1C(=NC2=C1C=CC(=C2)N(C)S(=O)(=O)C2=CC=CC=C2)CNC2=C(C=C(C=C2)C#N)OC | C24H23N5O3S
reactant | hydrochloric acid | Cl | ClH
reactant | ammonium carbonate | C([O-])([O-])=O.[NH4+].[NH4+]
solvent | ethanol | C(C)O | C2H6O
product | 1-methyl-2-[N-(4-amidino-2-methoxy-phenyl)-aminomethyl]-5-(N-methyl-benzenesulphonylamino)-benzimidazole | CN1C(=NC2=C1C=CC(=C2)N(C)S(=O)(=O)C2=CC=CC=C2)CNC2=C(C=C(C=C2)C(N)=N)OC | C24H26N6O3S
